US04652556
Preparation of 2-Methyl-2-(ethenylsulfonamido)propionitrile
To a stirred mixture of 8.0 g (0.049 mole) 2-chloroethylsulfonyl chloride in 200 ml methylene chloride, cooled by an ice bath, 8.3 g (0.098 mole) 2-amino-2-methyl-propionitrile were added dropwise. The reaction mixture was then stirred at room temperature overnight. The reaction mixture was washed twice with equal portions (about 200 ml) water, dried over magnesium sulfate, filtered and stripped to give a semi-solid. The semi-solid was triturated with ethyl ether/acetone and filtered to remove salts. The filtrate was stripped to give 7.9 g of the above-identified product as an amber oil.

reactant | 2-chloroethylsulfonyl chloride | 0.049 mole, 8.0 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 2-amino-2-methyl-propionitrile | 0.098 mole, 8.3 g | NC(C#N)(C)C | C4H8N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-(ethenylsulfonamido)propionitrile | 7.9 g | CC(C#N)(C)NS(=O)(=O)C=C | C6H10N2O2S
